US07906516B2
The solution of 1 g (6.62 mmol) of 5-chloro-2-thiophenecarboxaldehyde and 1.38 g (13.23 mmol) of malonic acid in 0.07 ml of piperidine and 5 ml of pyridine is refluxed for 2 hours. The reaction solution is subsequently allowed to cool, then poured into 20 ml of water and acidified to pH 1 using 2N hydrochloric acid. The product which precipitates in the process is filtered off with suction and dried in a drying cabinet at 80° C., giving 1.02 g of (E)-3-(5-chlorothiophen-2-yl)acrylic acid as brown crystals, ESI 189. Analogously to Example 7.1, reaction between the compound of Example 7.2 and (E)-3-(5-chlorothiophen-2-yl)acrylic acid gives the compound N-[4-(3-oxomorpholin-4-yl)phenyl]-(2R,4R)-1-[(E)-3-(5-chlorothiophen-2-yl)acryloyl]-4-hydroxypyrrolidine-2-carboxamide as colourless crystals, ESI 476, m.p. 151°.

reactant | 5-chloro-2-thiophenecarboxaldehyde | 6.62 mmol, 1 g | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | malonic acid | 13.23 mmol, 1.38 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | piperidine | 0.07 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (E)-3-(5-chlorothiophen-2-yl)acrylic acid | 1.02 g | ClC1=CC=C(S1)/C=C/C(=O)O | C7H5ClO2S
